Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year-old man with a hx of dementia, HTN, 
hypothyroidism, prior hx of CHB with conversion to wenckebach 
block s/p pacemaker placement in ___, chronic hyponatremia, and 
prior falls who presents with an unwitnessed fall 1 day PTA. He 
states that he awoke from sleep and fell face first while 
getting out of bed to go to the bathroom, though he is an 
unreliable historian and is unsure of the details. He says that 
he hit his nose and that his "spine is involved," though he 
could not go into further detail. He says he has minor pain on 
the back of his neck, the small of his back, and his nose, all 
starting since his fall, though he emphasizes that he has a 
"high threshold for pain." He believes he was ambulatory after 
the fall. He uses a walker to ambulate and acknowledges mild 
gait unsteadiness. He denies lightheadedness, dizziness, 
diaphoresis, or changes in vision prior to the fall and he 
denies feeling confused after the fall. Denies vertigo. He 
feeling lightheaded or dizzy upon sitting up or standing. He 
does not think he had LOC. He also states that he has "very very 
mild discomfort" in his chest and abdomen with no radiation.
.
In the ED: Vitals: T 97.5, BP 130/75, HR 77, RR 18, O2sat 97%RA. 
He was found to have normal rectal tone, guaiac negative. Some 
bruising under right eye. Neurologically intact per ED resident. 
Patient was put in a C-collar.
.
ROS: 
(+)
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies cough, 
SOB. Denies chest tightness or pressure, palpations. Denies 
nausea, vomiting, diarrhea, constipation. No recent change in 
bowel or bladder habits.  No urinary frequency, no dysuria. 
Denies arthralgias, myalgias, lower extremity edema. Denies any 
recent change in vision. Denies rash or skin changes. Unsure if 
has had hematochezia or hematuria.
 
Past Medical History:
Dementia  
Hypertension  
Hypothyroidism  
Hyponatremia  
Urinary incontinence  
History of ___  
s/p pacemaker placement (VDD mode)

 
Social History:
___
Family History:
.
Family History: Mother died of MI at a "somewhat young age." 
Patient is youngest of ___. He recalls that one brother died of an 
MI. No FH of DM or sudden death. Does not know health status of 
his children.

 
Physical Exam:
Physical Exam:  
Vitals: Tm 98.6 Tc 97.7 BP 136/84 BP range 136-150/80-84 HR 64 
HR range 64-66 RR 16 O2sat98%RA. Since admission I/O is ___.  
General: Awake, alert, NAD, pleasant and friendly elderly man 
lying on his back in a C-collar in the dark with eyes closed.  
HEENT: NC/AT, PERRL, EOMI without nystagmus, sclera muddy brown 
though anicteric without conjunctival injection, eyes with 
exudate, partly stuck closed and teary, MMM, no lesions noted in 
OP. Dried blood in nares.
Neck: no JVD appreciated, mild carotid bruit on right (likely 
radiation of systolic murmur). Unable to check left side due to 
C-collar.
Pulmonary: No chest wall abnormalities/scoliosis/kyphosis. 
Respirations were unlabored, no accessory muscle use. Lungs with 
rhonchi on inspiration at mid-lung level bilaterally, mild 
crackles at left lung base.
Cardiac: RRR, nl S1S2, III/VI systolic murmur radiating to 
cartoid and axilla.
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
hepatosplenmegaly noted. No abdominal bruits.
Extremities: No C/C/E bilaterally, full ROM. 2+ radial, DP 
pulses b/l. Heberden's nodes on fingers bilaterally.
Skin: Ecchymoses on nasal side of both eyes and on bridge of 
nose. Bridge of nose also swollen with a 3mm abrasion. No statis 
dermatitis or ulcers. No rashes.  
Neurologic:  
-mental status: Alert, oriented to self and hospital in 
___, chooses BI when given choice between BI and the 
___. Says he has been in the hospital for less than a week 
and says date is ___. Knows his birthday. Unable to 
relate details of his history. Latent, slow speech.
-cranial nerves: II-XII intact
-motor: normal bulk throughout. Increased tone in lower 
extremities. No clonus. No asterixis. Spontaneous twitching in 
legs and feet bilaterally.
       D  T  B  WE  IO  IP  Q  H  DF  PF  ___
Right  ___   ___   5  4+  4   5     4
Left   ___   ___   ___   5     5
-sensory: No deficits to light touch throughout.  
-cerebellar: No nystagmus, dysarthria
-DTRs: Unable to obtain reflexes due to patient inability to 
follow command to relax. Plantar response was downgoing 
bilaterally.  

 
Pertinent Results:
EKG: ___ Impression by medical student: Regularly 
ventricularly paced, unchanged compared to ___.
.
Radiologic Data:
___ CT Head w/o contrast: IMPRESSION: No acute intracranial 
abnormalities. Stable chronic microvascular infarction and 
atherosclerotic calcifications.
.
___ CT Sinus/Mandible/Maxillofacial w/o contrast: 
IMPRESSION: 1. Nasal bone fracture.
2. Subcutaneous hematoma just inferior to the right globe. No 
orbital fracture or evidence of globe rupture.
3. Stable mild mucosal thickening of the left maxillary sinus 
and left sphenoid air cell. 
.
___ CT C-spine w/o contrast: IMPRESSION: 1. There is 
asymmetry of the distance of the lateral masses from the dens, 
left more than the right, this is most likely positional and 
augmented by the degerative change in the spine. Findings appear 
stable compared to ___ 
study.  
2. Multilevel degenerative changes in the cervical spine with 
osteophyte formation and narrowing of the exit nerve root 
foramina as described above. There is no recent fracture. Stable 
findings, again, compared with prior study.
3. Extensive atherosclerotic calcification, in the common 
carotid and internal carotid arteries as well as an incidental 
21 x 17 mm aneurysm of the left subclavian artery at its origin, 
again likely stable compared with prior study.
.
___ CXR (PA & LAT): IMPRESSION:
1. Apparent further collapse of at least one lower thoracic 
vertebral body.
2. No rib fractures visualized.
3. No acute cardiopulmonary abnormalities..
.
___ Echo: Impression: LVEF >55%, no ventricular outflow 
obstruction, mild AS, Grade I (mild) left ventricular diastolic 
dysfunction.

 
Brief Hospital Course:
Hospital course:
This is a ___ year-old man with a hx of dementia, HTN, 
hypothyroidism, prior hx of heart block s/p pacemaker placement 
in ___, chronic hyponatremia, and prior falls who presents with 
an unwitnessed fall 1 day PTA.
.
#) Unwitnessed fall: Likely mechanical. Telemetry has shown no 
abnormalities and pacer interrogation was unremarkable. Echo 
shows increased LV wall thickness compared to ___ study, 
unchanged mild AS and mild LV diastolic dysfunction. Patient was 
found to be orthostatic yesterday and received 1L NS. ___ 
recommended acute rehabilitation. Additionally, it is possible 
that the pt. becomes confused at night leading to falls. He was 
started on zyprexa at bedtime to prevent agitation at night. 
Detrol was stopped as this medication can worsen dementia, 
however, if urinary continence becomes a problem he should 
discuss an alternate medication.
Also, he was seen by orthopedics for neck pain. He was 
radiographically cleared as well as cleared by orthopedics. He 
has a follow up appointment with orthopedics as an outpatient 
and is to wear a soft collar for comfort until that time.
.
#) Nasal bone fracture: secondary to the fall. Plastics was 
consulted they recommended followup in their clinic as an 
outpatient.
.
#) Thoracic vertebral compression fracture: CXR prelim read 
states apparent further collapse of at least one lower thoracic 
vertebral body, worse since ___. MRI contraindicated given 
patient's pacemaker. Do not obtain CT T-spine for now. 
Acetaminophen 325-650mg PO Q6H:PRN changed to standing dose. If 
pain begins to significantly affect patient, consider surgical 
consult and kyphoplasty.
.
#) Hyponatremia: Na 127 on admission, which is approx patient's 
baseline for at least past ___ years. Now Na 130. Patient worked 
up for hyponatremia during previous hospitalization with urine 
lytes c/w SIADH. Since patient's current Na is at/above his 
baseline, monitored Na. Am cortisol drawn to evaluate as 
possible cause for hyponatremia and orthostatic hypotension and 
it was 17.8, within the normal range
.
#) HTN: Received lisinopril  10 mg daily in house. Will be 
discharged on Fosinopril 20 mg dialy, his home medication.
.
#) Dementia: Continued home meds of Aricept and Memantine. 
Intiated Olanzapine 2.5 mg PO at bedtime for night-time 
agitation.
.
#) Urinary incontinence: Hold Detrol given neurologic side 
effects and while orthostatic.
.
#) Hypothyroidism: Continue home med of Synthroid. TSH 1.8 in 
___.
.
#) Prophylaxis: sc heparin, bowel regimen, Calcium, Vit D, Vit 
B12 (increased from 50mcg qd home dose to 100mcg qd), MVI.
.
#) Precautions: fall safety
.
#) FEN: replete lytes prn, p.o. cardiac diet as tolerated
.
#) Access: PIVs
.
#) Code Status: DNR
 
Medications on Admission:
Amlodipine 10mg qam  
Fosinopril 20mg BID  
ASA 81mg qd  
Simvastatin 10mg qpm  
Aricept 10mg qhs  
Memantine 5mg qd  
Detrol 2mg BID  
Synthroid ___ qd  
Ca (600mg) + Vit D (200 units) po BID  
Vit B12 50mcg po qd  
MVI qd  

 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO QAM (once a day 
(in the morning)).  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
4. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
5. Memantine 5 mg Tablet Sig: One (1) Tablet PO qd ().  
6. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 0.5 Tablet 
PO DAILY (Daily).  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
10. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Olanzapine 5 mg Tablet, Rapid Dissolve Sig: 0.5 Tablet, 
Rapid Dissolve PO QHS (once a day (at bedtime)).  
12. Fosinopril 20 mg Tablet Sig: One (1) Tablet PO twice a day.  


 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ground level fall
dementia
urinary incontinence
hypertension
hyperlipidemia

 
Discharge Condition:
Stable for rehabilitation

 
Discharge Instructions:
You were admitted for a fall at home. Imaging revealed a nasal 
bone fracture. Additionally, due to the pain that you felt in 
your neck you were evaluated by orthopedics. They recommended 
that you wear a soft collar and a follow up appointment with 
orthopedics has been made for you.

Additionally you had an echocardiogram and your pacemaker was 
interrogated.

your detrol has been stopped as this medication can worsen 
confusion.

we have added zyprexa to your medication regimen, please take as 
prescribed.

if you experience any worrisome medical symptoms please seek 
medical attention.
 
Followup Instructions:
___